### PR TITLE
[Merged by Bors] - feat(Data/PNat/Basic): add order-related instances to PNat

### PR DESCRIPTION
**Pull request by jburroni**
Add `SuccAddOrder ℕ+` and `NoMaxOrder ℕ+` instances. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/PNat/Basic.lean [hunk 1]
```diff
@@ -370,4 +372,17 @@ theorem pos_of_div_pos {n : ℕ+} {a : ℕ} (h : a ∣ n) : 0 < a := by
   rw [hzero] at h
   exact PNat.ne_zero n (eq_zero_of_zero_dvd h)
 
+
+/-- Order related instances for `ℕ+`.
+-/
+
+instance instSuccOrder : SuccOrder ℕ+  :=
```
Comment (eric-wieser) [inline Mathlib/Data/PNat/Basic.lean]:
```suggestion
instance instSuccOrder : SuccOrder ℕ+ :=
```
Can you add the lemmas that equates Order.succ and succPNat?

Comment (jburroni) [reply Mathlib/Data/PNat/Basic.lean]: done

**Comment by Ruben-VandeVelde** [comment]
I think the import increase is too harsh; please move your results into a new file. Please also merge master.

**Comment by vihdzp** [comment]
I recommend moving this to a new Data/PNat/SuccOrder file.

File: Mathlib/Data/PNat/Order.lean [hunk 2]
```diff
@@ -0,0 +1,32 @@
+/-
+Copyright (c) 2025 Javier Burroni. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Javier Burroni
+-/
+
```
Comment (vihdzp) [inline Mathlib/Data/PNat/Order.lean]:
```suggestion
```

File: Mathlib/Data/PNat/Order.lean [hunk 3]
```diff
@@ -0,0 +1,32 @@
...
+import Mathlib.Data.PNat.Defs
+import Mathlib.Data.PNat.Basic
+import Mathlib.Order.SuccPred.Basic
+import Mathlib.Algebra.Order.SuccPred
+
+
+/-! Order related instances for `ℕ+`.
+-/
+
```
Comment (vihdzp) [inline Mathlib/Data/PNat/Order.lean]:
```suggestion
/-!
# Order related instances for `ℕ+`
-/
```

File: Mathlib/Data/PNat/Order.lean [hunk 4]
```diff
@@ -0,0 +1,32 @@
...
+  SuccOrder.ofSuccLeIff (fun n => succPNat n) (by rfl)
+
+instance instSuccAddOrder : SuccAddOrder ℕ+ where
+  succ_eq_add_one x := by rfl
+
+instance instNoMaxOrder : NoMaxOrder ℕ+ where
+  exists_gt n := ⟨succPNat n, lt_succ_self n⟩
+
+@[simp]
+lemma succ_eq_succPNat (n : ℕ+) : Order.succ n = succPNat n := rfl
```
Comment (vihdzp) [inline Mathlib/Data/PNat/Order.lean]: A future refactor plans to make `n + 1` the normal form for `Order.succ n`. I'd recommend you follow that here too.

File: Mathlib/Data/PNat/Order.lean [hunk 5]
```diff
@@ -0,0 +1,32 @@
...
+
+/-! Order related instances for `ℕ+`.
+-/
+
+
+namespace PNat
+open Nat
+
+instance instSuccOrder : SuccOrder ℕ+ :=
+  SuccOrder.ofSuccLeIff (fun n => succPNat n) (by rfl)
```
Comment (vihdzp) [inline Mathlib/Data/PNat/Order.lean]: Likewise, I'd rather see:
```suggestion
  SuccOrder.ofSuccLeIff (fun n ↦ n + 1) rfl
```

**Comment by jburroni** [comment]
I incorporated all the feedback. Thank you.
-awaiting-author

File: Mathlib/Data/PNat/Order.lean [hunk 6]
```diff
@@ -0,0 +1,30 @@
...
+
+/-!
+# Order related instances for `ℕ+`
+-/
+
+namespace PNat
+open Nat
+
+instance instSuccOrder : SuccOrder ℕ+ :=
+  SuccOrder.ofSuccLeIff (fun n ↦ n + 1) (by rfl)
```
Comment (vihdzp) [inline Mathlib/Data/PNat/Order.lean]: Does this work?
```suggestion
  SuccOrder.ofSuccLeIff (fun n ↦ n + 1) rfl
```

File: Mathlib/Data/PNat/Order.lean [hunk 7]
```diff
@@ -0,0 +1,30 @@
...
+
+instance instSuccAddOrder : SuccAddOrder ℕ+ where
+  succ_eq_add_one x := by rfl
```
Comment (vihdzp) [inline Mathlib/Data/PNat/Order.lean]: Likewise
```suggestion
  succ_eq_add_one x := rfl
```

**Review by vihdzp — APPROVED** [review]
Otherwise LGTM

File: Mathlib/Data/PNat/Order.lean (hunk 6 above)
Comment (jburroni) [reply Mathlib/Data/PNat/Order.lean]: Unfortunately it doesn't work.

File: Mathlib/Data/PNat/Order.lean (hunk 7 above)
Comment (jburroni) [reply Mathlib/Data/PNat/Order.lean]: Applied a version of this.

File: Mathlib/Data/PNat/Order.lean (hunk 6 above)
Comment (kckennylau) [inline Mathlib/Data/PNat/Order.lean]:
```suggestion
  .ofSuccLeIff (· + 1) Iff.rfl
```

File: Mathlib/Data/PNat/Order.lean [hunk 8]
```diff
@@ -0,0 +1,30 @@
...
+-/
+
+namespace PNat
+open Nat
+
+instance instSuccOrder : SuccOrder ℕ+ :=
+  SuccOrder.ofSuccLeIff (fun n ↦ n + 1) (by rfl)
+
+instance instSuccAddOrder : SuccAddOrder ℕ+ where
+  succ_eq_add_one _x := rfl
```
Comment (kckennylau) [inline Mathlib/Data/PNat/Order.lean]:
```suggestion
  succ_eq_add_one _ := rfl
```

File: Mathlib/Data/PNat/Order.lean [hunk 9]
```diff
@@ -0,0 +1,30 @@
+/-
+Copyright (c) 2025 Javier Burroni. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Javier Burroni
+-/
+import Mathlib.Data.PNat.Defs
+import Mathlib.Data.PNat.Basic
+import Mathlib.Order.SuccPred.Basic
+import Mathlib.Algebra.Order.SuccPred
```
Comment (kckennylau) [inline Mathlib/Data/PNat/Order.lean]:
```suggestion
import Mathlib.Algebra.Order.SuccPred
import Mathlib.Data.PNat.Basic
```

**Comment by jburroni** [comment]
I incorporated all the feedback. Thank you.
-awaiting-author
